US05824624
Butyl lithium (105.0 ml, 0.26 mol, 2.5M solution in hexane) is added to a solution of 1-bromo-4-fluoro benzene (34. 3 ml, 0.31 mol) in anhydrous diethyl ether (200 ml) at -20° C. The mixture is stirred for 60 min and then chilled to -40° C. 2,6-Difluoropyridine (22.7 ml, 0.25 mol) is added and the reaction mixture is allowed to warm to ambient temperature. Subsequently, the mixture is washed with saturated aqueous ammonium chloride (300 ml). The layers are separated and the aqueous layer is washed with diethyl ether 3 times (100 ml each). After drying of the combined organic layers with anhydrous magnesium sulphate, the solvent is removed in vacuo. The crude product is purified by flash column chromatography (silica gel, hexane/AcOEt 8/2) yielding colorless crystals of 2-fluoro-6-(4'-fluorophenyl)-pyridine (19.8 g, 41.0% of th.) with mp 34° C.

reactant | Butyl lithium | 0.26 mol, 2.5M, 105.0 ml | C(CCC)[Li]
reactant | 1-bromo-4-fluoro benzene | 0.31 mol, 3 ml | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 2,6-Difluoropyridine | 0.25 mol, 22.7 ml | FC1=NC(=CC=C1)F | C5H3F2N
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-fluoro-6-(4'-fluorophenyl)-pyridine | 19.8 g, 41.0% | FC1=NC(=CC=C1)C1=CC=C(C=C1)F | C11H7F2N
